US07799797B2
A mixture of C-(6-benzenesulfonyl-naphthalen-1-yl)-methylamine, (Benzyloxycarbonyl-methyl-amino)-acetic acid, 1-hydroxybenzotriazole, N-(3-dimethylaminopropyl)-N-ethylcarbodiimide and triethylamine in methylene chloride is stirred at room temperature. The reaction is quenched by addition of water, and the mixture is eluted through silica gel to give {[(6-Benzenesulfonyl-naphthalen-1-ylmethyl)-carbamoyl]-methyl}-methyl-carbamic acid benzyl ester.

reactant | C-(6-benzenesulfonyl-naphthalen-1-yl)-methylamine | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CC=C(C2=CC1)CN | C17H15NO2S
reactant | (Benzyloxycarbonyl-methyl-amino)-acetic acid | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)O | C11H13NO4
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide | CC[N+](=C=N)CCCN(C)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {[(6-Benzenesulfonyl-naphthalen-1-ylmethyl)-carbamoyl]-methyl}-methyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C)CC(NCC1=CC=CC2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)=O)=O | C28H26N2O5S
